US06083961
A solution of 2-ethoxycarbonylmethoxy-3-methoxybenzaldehyde (2.00 g) and potassium tert-butoxide (963 mg) in tetrahydrofuran (20 ml) was stirred for 1 hour under ice-cooling. Water was added to the reaction mixture, and the solution was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (n-hexane:ethyl acetate=7:1, v/v) to give 2-ethoxycarbonyl-7-methoxybenzofuran (360 mg).

reactant | 2-ethoxycarbonylmethoxy-3-methoxybenzaldehyde | 2.00 g | C(C)OC(=O)COC1=C(C=O)C=CC=C1OC | C12H14O5
reactant | potassium tert-butoxide | 963 mg | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-ethoxycarbonyl-7-methoxybenzofuran | 360 mg | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2OC | C12H12O4
